US07608627B2
A mixture of phenyl[1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridin-2-yl]methanol (2.6 g, 7.1 mmol) and MnO2 (9.3 g, 110 mmol) in THF (125 mL) was heated to reflux. After 20 h, the reaction mixture was filtered through a pad of diatomaceous earth. The filtrate was concentrated under reduced pressure. Purification by column chromatography (silica gel, CH2Cl2 to 99:1 CH2Cl2/MeOH) gave phenyl[1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridin-2-yl]methanone (1.7 g, 68%) as an off-white solid: mp 145-146° C.; 1H NMR (500 MHz, DMSO-d6) δ7.32 (1H, s), 7.60-7.63 (2H, m), 7.66-7.69 (2H, m), 7.73-7.77 (3H, m), 7.93-7.95 (2H, m), 8.07-8.09 (2H, m), 8.50 (1H, d, J=5.3 Hz), 9.35 (1H, s); ESI MS m/z 363 [C20H14N2O3S+H]+; HPLC (Method A) 99.0% (AUC), tR=18.2 min.

reactant | phenyl[1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridin-2-yl]methanol | 7.1 mmol, 2.6 g | C1(=CC=CC=C1)C(O)C1=CC=2C(=CN=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C20H16N2O3S
solvent | THF | 125 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 110 mmol, 9.3 g | O=[Mn]=O
product | phenyl[1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridin-2-yl]methanone | 1.7 g, 68% | C1(=CC=CC=C1)C(=O)C1=CC=2C(=CN=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C20H14N2O3S
